US06858638B2
N-[3-(4-Fluorophenyl)-1H-indazol-5-yl]-2-methylbenzenesulfonamide can be prepared as in Example 2 from 0.7 g of 5-amino-3-(4-fluorophenyl)-1H-indazole, 0.27 ml of pyridine, 18 ml of tetrahydrofuran and 866 mg of 2-methylsulfonylbenzenesulfonyl chloride. 0.54 g of N-[3-(4-fluorophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide is thus obtained in the form of a pink solid melting at 209° C. (analysis C20H16FN3O4S2.0.62CH2Cl2 % calculated C, 53.93; H, 3.62; F, 4.26; N, 9.43; O, 14.37; S, 14.39. % found C, 53.93; H, 3.65; N, 9.44; S, 14.39).

reactant | N-[3-(4-Fluorophenyl)-1H-indazol-5-yl]-2-methylbenzenesulfonamide | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)C | C20H16FN3O2S
reactant | 5-amino-3-(4-fluorophenyl)-1H-indazole | 0.7 g | NC=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)F | C13H10FN3
reactant | pyridine | 0.27 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-methylsulfonylbenzenesulfonyl chloride | 866 mg | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO4S2
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
product | N-[3-(4-fluorophenyl)-1H-indazol-5-yl]-2-methylsulfonylbenzenesulfonamide | 0.54 g | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C20H16FN3O4S2
